US09056866B2
5-tert-Butyl-3-(2-chloro-benzyl)-7-cyclobutoxy-3H-[1,2,3]triazolo[4,5-d]pyrimidine
A mixture of cyclobutanol (173 mg, 2.4 mmol) and NaH (4.8 mg, 0.12 mmol) in DMF (1 mL) was stirred for 30 min at room temperature. 5-tert-butyl-7-chloro-3-(2-chlorobenzyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine (26.9 mg, 0.08 mmol) was added and the mixture was stirred at room temperature overnight. Formic acid added and the mixture was subjected to preparative HPLC purification on reversed phase eluting with a gradient formed from acetonitrile, water and formic acid. The product containing fractions were evaporated to yield 4 mg (13%) of the title compound. MS(m/e): 372.3.

reactant | cyclobutanol | 2.4 mmol, 173 mg | C1(CCC1)O | C4H8O
reactant | NaH | 0.12 mmol, 4.8 mg | [H-].[Na+]
reactant | 5-tert-butyl-7-chloro-3-(2-chlorobenzyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine | 0.08 mmol, 26.9 mg | C(C)(C)(C)C=1N=C(C2=C(N1)N(N=N2)CC2=C(C=CC=C2)Cl)Cl | C15H15Cl2N5
reactant | Formic acid | C(=O)O | CH2O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 5-tert-Butyl-3-(2-chloro-benzyl)-7-cyclobutoxy-3H-[1,2,3]triazolo[4,5-d]pyrimidine | 4 mg, 13% | C(C)(C)(C)C=1N=C(C2=C(N1)N(N=N2)CC2=C(C=CC=C2)Cl)OC2CCC2 | C19H22ClN5O
